US08835431B2
a. (1R,4S)-4-Amino-6-fluoro-1,2,3,4-tetrahydro-naphthalen-1-ol (Intermediate 19a)
To a solution of 2,2,2-trifluoro-N-((1S,4R)-7-fluoro-4-hydroxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide (synthesised in an analogous manner to that described in WO 2009/048474, which is incorporated herein by reference in its entirety) (2.31 g, 8.34 mmol) in MeOH (22.5 mL), was added a solution of sodium hydroxide (0.834 g, 20.8 mmol) in water (15 mL) and the mixture was stirred at RT for 65 h. The mixture was concentrated in vacuo, then applied to an SCX-2 cartridge (50 g), washing with methanol then eluting basic components with 0.2-1 M ammonia in methanol. Product containing fractions were combined and concentrated in vacuo. The residue was purified by FCC, using 0-10% [2M NH3 in MeOH] in DCM, to give the title compound (1.29 g, 86%). 1H NMR (300 MHz, d6-DMSO): 1.60-2.15 (6H, m), 3.62-3.71 (1H, m), 4.49 (1H, t, J 4.7), 5.15 (1H, br s), 6.98 (1H, dt, J 8.6, 2.8), 7.28 (1H, dd, J 10.7, 2.8), 7.36 (1H, dd, J 8.6, 6.2).

reactant | 2,2,2-trifluoro-N-((1S,4R)-7-fluoro-4-hydroxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetamide | FC(C(=O)N[C@H]1CC[C@H](C2=CC=C(C=C12)F)O)(F)F | C12H11F4NO2
reactant | sodium hydroxide | 20.8 mmol, 0.834 g | [OH-].[Na+]
solvent | MeOH | 22.5 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | (1R,4S)-4-Amino-6-fluoro-1,2,3,4-tetrahydro-naphthalen-1-ol | 1.29 g, 86% | N[C@H]1CC[C@H](C2=CC=C(C=C12)F)O | C10H12FNO
